US07214824B2
2-(4-tert-Butylphenoxy)-N-((1R)-1-{3-methyl-4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide
To a tetrahydrofuran (THF) (2.0 ml) solution of (4-tert-butylphenoxy)acetic acid (140 mg, 0.7 mmol) 1,1′-dicarbonyldiimidazole (110 mg, 0.7 mmol) was added and the mixture was stirred for 1 hour at ambient temperature. N-{4-[(1R)-1-aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride (180 mg, 0.7 mmol) and triethylamine (0.5 ml) were added to the mixture. After being stirred for 1 hour at ambient temperature, white precipitate appeared. It was filtered and the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with methylene dichloride/ethyl acetate=1/1 to furnish 90 mg (31% yield) of the title compound as a white solid.

reactant | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
reactant | (4-tert-butylphenoxy)acetic acid | 0.7 mmol, 140 mg | C(C)(C)(C)C1=CC=C(OCC(=O)O)C=C1 | C12H16O3
reactant | N-{4-[(1R)-1-aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride | 0.7 mmol, 180 mg | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-tert-Butylphenoxy)-N-((1R)-1-{3-methyl-4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide | 90 mg, 31% yield | C(C)(C)(C)C1=CC=C(OCC(=O)N[C@H](C)C2=CC(=C(C=C2)NS(=O)(=O)C)C)C=C1 | C22H30N2O4S
